US09351965B2
Preparation of N-(3-(2-Fluorobenzyl)-3-(hydroxymethyl)piperidin-1-yl)-3-(2-methylpyridin-4-yl)-1-trityl-1H-indazole-5-carboxamide
In a flask, 3-(2-methylpyridin-4-yl)-1-trityl-1H-indazole-5-carboxylic acid (605 mg, 1.22 mmol), HATU (572 mg, 1.50 mmol) and (1-amino-3-(2-fluorobenzyl)piperidin-3-yl)methanol (258 mg, 0.94 mmol) was dissolved in dimethylformamide (3 mL). Diisopropylethylamine (0.819 mL, 4.7 mmol) was added to the reaction. The reaction was allowed to stir for an additional 1 h. Upon completion, the reaction was quenched with water (10 mL). The water layer was extracted with ethyl acetate (20 mL) three times. The organic fractions were combined, dried with sodium sulfate, and concentrated to yield the crude product. The crude product was progressed to the next step without further purification.

reactant | 3-(2-methylpyridin-4-yl)-1-trityl-1H-indazole-5-carboxylic acid | 1.22 mmol, 605 mg | CC1=NC=CC(=C1)C1=NN(C2=CC=C(C=C12)C(=O)O)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C33H25N3O2
reactant | HATU | 1.50 mmol, 572 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | (1-amino-3-(2-fluorobenzyl)piperidin-3-yl)methanol | 0.94 mmol, 258 mg | NN1CC(CCC1)(CC1=C(C=CC=C1)F)CO | C13H19FN2O
reactant | Diisopropylethylamine | 4.7 mmol, 0.819 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | dimethylformamide | 3 mL | CN(C=O)C | C3H7NO
product | N-(3-(2-Fluorobenzyl)-3-(hydroxymethyl)piperidin-1-yl)-3-(2-methylpyridin-4-yl)-1-trityl-1H-indazole-5-carboxamide | FC1=C(CC2(CN(CCC2)NC(=O)C=2C=C3C(=NN(C3=CC2)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C2=CC(=NC=C2)C)CO)C=CC=C1 | C46H42FN5O2
